* Test T5: Load Transient Overshoot — 10mA->1mA step, 1us edge, BVDD=7V
* PASS: overshoot < 150mV above regulated PVDD
.title PVDD LDO T5 Load Transient Overshoot

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

* Supplies
Vbvdd bvdd 0 PWL(0 0 10u 7 300m 7)
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Ven_ret en_ret 0 0

* DUT
XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag pvdd_regulator

* Load: 10mA steady, step down to 1mA at 200ms (1us edge)
* Use 500 ohm for 10mA at 5V, then switch to ~5k for 1mA
* PWL current source: 10mA before step, 1mA after
Iload pvdd 0 PWL(0 0 10u 10m 199.999m 10m 200m 10m 200.001m 1m 300m 1m)

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.option itl1=500 itl2=500 itl4=500

.ic V(pvdd)=0 V(bvdd)=0
.tran 5u 300m uic

* Measure steady-state PVDD before step (at 10mA load)
.meas tran v_before avg V(pvdd) from=195m to=200m
* Measure max PVDD after load release (overshoot)
.meas tran v_peak MAX V(pvdd) from=200m to=210m
* Measure settled PVDD after step (at 1mA)
.meas tran v_after avg V(pvdd) from=280m to=300m

.control
run
echo "=== TEST T5: LOAD TRANSIENT OVERSHOOT ==="
echo "V_before (10mA): $&v_before V"
echo "V_peak (after step): $&v_peak V"
echo "V_after (1mA settled): $&v_after V"
let overshoot = v_peak - v_after
let overshoot_mv = overshoot * 1000
echo "Overshoot = $&overshoot_mv mV"
if overshoot_mv < 150
  echo "RESULT: PASS (overshoot < 150mV)"
else
  echo "RESULT: FAIL (overshoot >= 150mV)"
end
quit
.endc
.end
